** sch_path: /home/toind/work/sislab_vnu/vco_adc2/xschem/lib_dco/dco_ring_osc.sch
.subckt dco_ring_osc VCCA GND VGND VPWR p[0] p[1] p[2] p[3] p[4] pn[0] pn[1] pn[2] pn[3] pn[4]
*.PININFO VPWR:B VGND:B pn[0]:O p[0]:B pn[1]:O p[1]:O p[2]:O p[3]:O p[4]:O pn[2]:O pn[3]:O pn[4]:O VCCA:B GND:B
x1 VCCA VPWR p[0] p[4] pn[4] pn[0] GND VGND dco_cc_inv
x2 VCCA VPWR p[1] p[0] pn[0] pn[1] GND VGND dco_cc_inv
x3 VCCA VPWR p[2] p[1] pn[1] pn[2] GND VGND dco_cc_inv
x4 VCCA VPWR p[3] p[2] pn[2] pn[3] GND VGND dco_cc_inv
x5 VCCA VPWR p[4] p[3] pn[3] pn[4] GND VGND dco_cc_inv
.ends

* expanding   symbol:  /home/toind/work/vco_adc2/xschem/lib_dco/dco_cc_inv.sym # of pins=8
** sym_path: /home/toind/work/vco_adc2/xschem/lib_dco/dco_cc_inv.sym
** sch_path: /home/toind/work/vco_adc2/xschem/lib_dco/dco_cc_inv.sch
.subckt dco_cc_inv VCCA VPWR outp inp inn outn GND VGND
*.PININFO outp:O inn:I VGND:B outn:O inp:I VPWR:B VCCA:B GND:B
x1 VPWR VCCA outp GND VGND inp dco_main_inv
x2 VPWR VCCA outn GND VGND inn dco_main_inv
x3 VPWR VCCA outp outn GND VGND dco_aux_inv
x4 VPWR VCCA outn outp GND VGND dco_aux_inv
.ends


* expanding   symbol:  /home/toind/work/vco_adc2/xschem/lib_dco/dco_main_inv.sym # of pins=6
** sym_path: /home/toind/work/vco_adc2/xschem/lib_dco/dco_main_inv.sym
** sch_path: /home/toind/work/vco_adc2/xschem/lib_dco/dco_main_inv.sch
.subckt dco_main_inv VPWR VCCA Y GND VGND A
*.PININFO VPWR:B VGND:B A:I Y:O VCCA:B GND:B
XM3 Y A VGND GND sky130_fd_pr__nfet_01v8 L=1 W=4 nf=2 m=1
XM4 Y A VPWR VCCA sky130_fd_pr__pfet_01v8 L=1 W=6 nf=2 m=1
.ends


* expanding   symbol:  /home/toind/work/vco_adc2/xschem/lib_dco/dco_aux_inv.sym # of pins=6
** sym_path: /home/toind/work/vco_adc2/xschem/lib_dco/dco_aux_inv.sym
** sch_path: /home/toind/work/vco_adc2/xschem/lib_dco/dco_aux_inv.sch
.subckt dco_aux_inv VPWR VCCA A Y GND VGND
*.PININFO VPWR:B VGND:B A:I Y:O VCCA:B GND:B
XM3 Y A VGND GND sky130_fd_pr__nfet_01v8 L=1 W=2 nf=1 m=1
XM4 Y A VPWR VCCA sky130_fd_pr__pfet_01v8 L=1 W=3 nf=1 m=1
.ends

.end
